US05444084
Preparation of (E,E,E)-2-(6,6-dimethyl-2-hepten-4-ynyl)-8-[3-[3-thienyl)phenyl]-2,7-octadienic acid methyl ester
(E,E)-2-(6,6-dimethyl-2-hepten-4-ynyl)-7-[3-(3-thienyl)phenoxy]-2-heptenoic acid methyl ester is obtained by carrying out the same reactions as in Referential Example 1 except that 5-[3-(3-thienyl)phenoxy]valeronitrile [synthesized by condensing 3-(3-thienyl)phenol with 5-bromovaleronitrile in dimethylformamide in the presence of sodium hydride] is used in place of (E)-6-[3-(3-thienyl)phenyl]-5-hexenenitrile which is the raw material compound used in the above.

reactant | 5-[3-(3-thienyl)phenoxy]valeronitrile | S1C=C(C=C1)C=1C=C(OCCCCC#N)C=CC1 | C15H15NOS
reactant | 3-(3-thienyl)phenol | S1C=C(C=C1)C=1C=C(C=CC1)O | C10H8OS
reactant | 5-bromovaleronitrile | BrCCCCC#N | C5H8BrN
reactant | sodium hydride | [H-].[Na+]
reactant | (E)-6-[3-(3-thienyl)phenyl]-5-hexenenitrile | S1C=C(C=C1)C=1C=C(C=CC1)/C=C/CCCC#N | C16H15NS
reactant | dimethylformamide | CN(C=O)C | C3H7NO
product | (E,E,E)-2-(6,6-dimethyl-2-hepten-4-ynyl)-8-[3-[3-thienyl)phenyl]-2,7-octadienic acid methyl ester | COC(\C(=C\CCC\C=C\C1=CC(=CC=C1)C1=CSC=C1)\C\C=C\C#CC(C)(C)C)=O | C28H32O2S
